US07816371B2
d. 2-(2-Fluoro-3-(trifluoromethyl)phenyl)-N-(2-(2-hydroxyethyl)-6-(2-hydroxyethylamino)-1-oxo-1,2-dihydroisoquinolin-5-yl)acetamide
A round bottom flask was charged with 2-(2-(2-acetoxyethyl)-5-(2-(2-fluoro-3-(trifluoromethyl)phenyl)acetamido)-1-oxo-1,2-dihydroisoquinolin-6-ylamino)ethyl acetate (120 mg, 0.00022 mol), potassium carbonate (45 mg, 0.00033 mol) and methanol (3 mL, 0.07 mol) and 2 drops of water was added and the reaction stirred at room temperature for 30 minutes and was filtered over sodium sulfate and the solvent removed and the residue purified by flash chromatography to get the product as white solid. MS m/z=468.4 (M+H). 1H NMR (400 MHz ) δ 9.45 (s, 1H), 7.98 (d, J=8.95 Hz, 1H), 7.79 (t, J=7.45 Hz, 1H), 7.70 (t, J=7.09 Hz, 1H), 7.40 (t, J=7.83 Hz, 1H), 7.22 (d, J=7.83 Hz, 1H), 6.91 (d, J=9.08 Hz, 1H), 6.16 (d, J=7.73 Hz, 1H), 5.64 (t, J=5.72 Hz, 1H), 4.84 (t, J=5.33 Hz, 1H), 4.76 (t, J=5.48 Hz, 1H), 3.96 (s, 2H), 3.91 (t, J=5.27 Hz, 2H), 3.62-3.53 (m, 4H), 3.27 (q, J=6.15 Hz, 2H).

reactant | 2-(2-(2-acetoxyethyl)-5-(2-(2-fluoro-3-(trifluoromethyl)phenyl)acetamido)-1-oxo-1,2-dihydroisoquinolin-6-ylamino)ethyl acetate | 0.00022 mol, 120 mg | C(C)(=O)OCCNC=1C(=C2C=CN(C(C2=CC1)=O)CCOC(C)=O)NC(CC1=C(C(=CC=C1)C(F)(F)F)F)=O | C26H25F4N3O6
reactant | potassium carbonate | 0.00033 mol, 45 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 0.07 mol, 3 mL | CO | CH4O
catalyst | water | 2 drops | O | H2O
product | 2-(2-Fluoro-3-(trifluoromethyl)phenyl)-N-(2-(2-hydroxyethyl)-6-(2-hydroxyethylamino)-1-oxo-1,2-dihydroisoquinolin-5-yl)acetamide | FC1=C(C=CC=C1C(F)(F)F)CC(=O)NC1=C2C=CN(C(C2=CC=C1NCCO)=O)CCO | C22H21F4N3O4
